US07635715B2
Step A: Preparation of 6-Bromo-4-hydroxy-1,1-dimethylnaphthalen-2(1H)-one
Concentrated aqueous HCl (36.5-37.5%, 10 mL) was added to a solution of ethyl 7-bromo-1-hydroxy-4,4-dimethyl-3-oxo-3,4-dihydronaphthalene-2-carboxylate (1.40 g, 4 mmol) in TFA (10 mL). The mixture was heated to 80° C. for 18 hours. The solvent was then removed under reduced pressure, and the residue was rinsed with water and diethyl ether. The remaining solids were dried in vacuo at 50° C. to afford the title compound in 70% yield. 1H-NMR (300 MHz, DMSO-d6) δ ppm 7.98 (1H, d, J=1.9 Hz), 7.75 (1H, dd, J=2.0, 8.5 Hz), 7.67 (1H, br. d, J˜8.0 Hz), 5.64 (1H, s), 2.51 (6H, m). MS (m/z not observed).

reactant | HCl | 10 mL | Cl | ClH
reactant | ethyl 7-bromo-1-hydroxy-4,4-dimethyl-3-oxo-3,4-dihydronaphthalene-2-carboxylate | 4 mmol, 1.40 g | BrC1=CC=C2C(C(C(=C(C2=C1)O)C(=O)OCC)=O)(C)C | C15H15BrO4
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-Bromo-4-hydroxy-1,1-dimethylnaphthalen-2(1H)-one | 70% yield | BrC=1C=C2C(=CC(C(C2=CC1)(C)C)=O)O | C12H11BrO2
